US07888347B2
1-[4-(6-Ethyl-5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)phenyl]-2-pyrrolidinone (E18)
To a solution of 1-[4-(5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)phenyl]-2-pyrrolidinone (may be prepared as described in Description 22) (50 mg, 0.17 mmol) in ethanol (5 ml) was added potassium carbonate (70 mg, 0.51 mmol) and iodoethane (53 mg, 0.34 mmol). The resulting mixture was heated at reflux, under argon, for 18 hours. A further 3 eq. of potassium carbonate in ethanol (2 ml) was added, and stirring continued over the weekend. Reaction was removed from heat and ethanol (˜20 ml) was added. Reaction was purified by SCX, eluting with methanol and then with 2M ammonia/methanol. The basic fractions were combined and solvent evaporated in vacuo. The resulting crude product was purified further by column chromatography on silica gel eluting with a mixture of methanol in dichloromethane (100:1-10:1) to afford the title compound (E18). MS (ES+) m/e 325 [M+H]+.

reactant | 1-[4-(5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)phenyl]-2-pyrrolidinone | 0.17 mmol, 50 mg | N=1N(C=C2C1CCNCC2)C2=CC=C(C=C2)N2C(CCC2)=O | C17H20N4O
reactant | potassium carbonate | 0.51 mmol, 70 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 0.34 mmol, 53 mg | ICC | C2H5I
reactant | potassium carbonate | 3 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-[4-(6-Ethyl-5,6,7,8-tetrahydropyrazolo[3,4-d]azepin-2(4H)-yl)phenyl]-2-pyrrolidinone | C(C)N1CCC=2C(CC1)=CN(N2)C2=CC=C(C=C2)N2C(CCC2)=O | C19H24N4O
